US07012075B2
To methyl N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate (605 mg, 0.932 mmol) in THF (20 mL) was added activated zinc powder (610 mg, 9.32 mmol) and an aqueous solution of KH2PO4 (1.0 M, 1.8 mL, 1.8 mmol) dropwise. After 15 min an additional aliquot of aqueous KH2PO4 solution was added (1.0 M, 1.8 mL, 1.8 mmol) and the reaction mixture was stirred for 4 hours. The zinc powder was filtered off, rinsed with Et2O and water and the product extracted with ether (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 25/5) to afford methyl N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)leucinate.

reactant | methyl N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate | 0.932 mmol, 605 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C(=NON1)N([C@@H](CC(C)C)C(=O)OC)C(=O)OCC(Cl)(Cl)Cl | C27H36Cl3N5O7
reactant | KH2PO4 | 1.8 mmol, 1.0 M, 1.8 mL | OP(=O)(O)[O-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | zinc | 9.32 mmol, 610 mg | [Zn] | Zn
product | methyl N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1,2,5-oxadiazol-3-yl)leucinate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C(=NON1)N[C@@H](CC(C)C)C(=O)OC | C24H35N5O5
